US05196425
A mixture of 8 parts of 1-acetyl-4-[6-fluoro-2-(phenylmethyl)-2H-indazol-3-yl]-piperidine and 70 parts of a hydrochloric acid solution 6N was stirred for 6 hours at reflux temperature. The reaction mixture was evaporated and the oily residue was crystallized from 2-propanol. The product was filtered off and dried, yielding 2 parts (25.1%) of 6-fluoro-2-(phenylmethyl)-3-(4-piperidinyl)-2H-indazole monohydrochloride; mp. >300° C. (int. 2).

reactant | 1-acetyl-4-[6-fluoro-2-(phenylmethyl)-2H-indazol-3-yl]-piperidine | C(C)(=O)N1CCC(CC1)C=1N(N=C2C=C(C=CC12)F)CC1=CC=CC=C1 | C21H22FN3O
reactant | hydrochloric acid | 6N | Cl | ClH
product | 6-fluoro-2-(phenylmethyl)-3-(4-piperidinyl)-2H-indazole monohydrochloride | 25.1% | Cl.FC=1C=CC2=C(N(N=C2C1)CC1=CC=CC=C1)C1CCNCC1 | InChI=1S/C19H20FN3.ClH/c20-16-6-7-17-18(12-16)22-23(13-14-4-2-1-3-5-14)19(17)15-8-10-21-11-9-15;/h1-7,12,15,21H,8-11,13H2;1H
